US07851463B2
1 g (6.2 mmol) of commercially available (S)-3-phenylpiperidine was dissolved in dichloromethane and 0.37 ml acetic acid (6.51 mmol). After addition of 0.5 ml of propanal (6.93 mmol) and 1.97 g of sodium triacetoxyborohydride (9.3 mmol), the reaction mixture was stirred at room temperature for 18 h. Water was added, the layers separated, and the aqueous phase extracted with dichloromethane. The combined organic layers were dried over magnesium sulfate, filtered, and evaporated to dryness to yield 1.1 g of (S)-3-phenyl-1-propyl-piperidine.

reactant | (S)-3-phenylpiperidine | C1(=CC=CC=C1)[C@H]1CNCCC1 | C11H15N
reactant | acetic acid | 6.51 mmol, 0.37 ml | C(C)(=O)O | C2H4O2
reactant | propanal | 6.93 mmol, 0.5 ml | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 9.3 mmol, 1.97 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | (S)-3-phenyl-1-propyl-piperidine | 1.1 g | C1(=CC=CC=C1)[C@H]1CN(CCC1)CCC | C14H21N
